US07709514B2
5-Pentylbenzimidazol-2-one (34)
To a solution of 5-methylbenzimidazol-2-one (50 mg, 3.378×10−4 mol) in dry ethanol (5 ml), the freshly made sodium ethoxide in ethanol (1M, 1.01×10−3 mol equivalents) was added dropwise under a nitrogen atmosphere. At room temperature the mixture was stirred for 3 hrs under an atmosphere of nitrogen and the ethanol was then removed under reduced pressure. To this a solution of dry DMSO (3 ml) and 1-bromobutane (54 μl, 5.1×10−4 mol) was added and stirred at room temperature under an atmosphere of nitrogen overnight. The reaction mixture was then quenched with ice and neutralised using 1M hydrochloric acid solution, forming a white solid product. The solid was collected by filtration and purified using preparative thin liquid chromatography with 10% MeOH/CHCl3.

reactant | 5-methylbenzimidazol-2-one | 3.378×10−4 mol, 50 mg | CC1=CC=2C(=NC(N2)=O)C=C1 | C8H6N2O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | DMSO | 3 ml | CS(=O)C | C2H6OS
reactant | 1-bromobutane | 5.1×10−4 mol, 54 μl | BrCCCC | C4H9Br
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 1.01×10−3 mol, 1M | C(C)O | C2H6O
product | 5-Pentylbenzimidazol-2-one | C(CCCC)C1=CC=2C(=NC(N2)=O)C=C1 | C12H14N2O
